US04886814
(b) 2-Trifluoromethyl-5-methyl-4-bromoacetyl-thiazole
3 g (0.0144 mol) of 2-Trifluoromethyl-5-methyl-4-acetyl-thiazole are dissolved in 30 ml of glacial acetic acid, and 2.1 ml of a 33% strength solution of hydrogen bromide in glacial acetic acid are added. The mixture is heated to 80° C. and, over the course of 30 minutes, a solution of 2.3 g (0.0144 mol) of bromine in 15 ml of glacial acetic acid is added. After a further 20 minutes, the glacial acetic acid is removed. The residue which remains is a dark oil which is reacted further as the crude product.

reactant | 2-Trifluoromethyl-5-methyl-4-acetyl-thiazole | 0.0144 mol, 3 g | FC(C=1SC(=C(N1)C(C)=O)C)(F)F | C7H6F3NOS
reactant | hydrogen bromide | Br | BrH
reactant | bromine | 0.0144 mol, 2.3 g | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-Trifluoromethyl-5-methyl-4-bromoacetyl-thiazole | FC(C=1SC(=C(N1)C(CBr)=O)C)(F)F | C7H5BrF3NOS
